US04518597
8-Chloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 8-chloro-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-(4-methylphenylmercapto)-butylchloride.

reactant | 8-chloro-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC(=CC=2C(OC(NC21)=O)(C)C)O | C10H10ClNO3
reactant | 4-(4-methylphenylmercapto)-butylchloride | CC1=CC=C(C=C1)SCCCCCl | C11H15ClS
product | 8-Chloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC(=CC=2C(OC(NC21)=O)(C)C)OCCCCSC2=CC=C(C=C2)C | C21H24ClNO3S
